US07192967B1
N-[4-(3-benzyl-2,4,5-trioxo-imidazolidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide (substance 16)
Batch size: 4.4 g (20.0 mmol) N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide, 5.2 g (19.8 mmol) triphenylphosphine, 4.1 g (20.1 mmol) 3-benzyl-2,4,5-trioxo-imidazolidine (production according to Ishii et al., J. Med. Chem. 39, 1924 (1996)) and 3.5 g (20.0 mmol) azodicarboxylic acid diethyl ester in 60 ml THF.

reactant | N-(4-hydroxybutyl)-3-pyridin-3-yl-acrylamide | 20.0 mmol, 4.4 g | OCCCCNC(C=CC=1C=NC=CC1)=O | C12H16N2O2
reactant | triphenylphosphine | 19.8 mmol, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-benzyl-2,4,5-trioxo-imidazolidine | 20.1 mmol, 4.1 g | C(C1=CC=CC=C1)N1C(NC(C1=O)=O)=O | C10H8N2O3
reactant | azodicarboxylic acid diethyl ester | 20.0 mmol, 3.5 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-[4-(3-benzyl-2,4,5-trioxo-imidazolidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide | C(C1=CC=CC=C1)N1C(N(C(C1=O)=O)CCCCNC(C=CC=1C=NC=CC1)=O)=O | C22H22N4O4
